US08669234B2
3-(2-Methoxycarbonylamino-3-methyl-butyryl)-imidazolidine-1,4-dicarboxylic acid 1-tert-butyl ester 4-methyl ester (160 mg, 0.412 mmol) was dissolved in dichloromethane (0.5 mL) and HCl (4M dioxane, 3 mL) was added. The resultant suspension was stirred at room temperature for 60 minutes, after which all volatiles were removed in vacuo. The crude material was dissolved in DMF (1.5 mL) and diisopropyl ethylamine (106 mg, 0.824 mmol) was added followed by trifluoroethyl triflate (114.7 mg, 0.494 mmol). After 14 hrs additional diisopropyl ethylamine (212 mg, 1.648 mmol) and trifluoroethyl triflate (229.4 mg, 0.988 mmol) were added. Stirring at room temperature was continued. After 40 hours, all volatiles were removed in vacuo and the crude material was purified by flash chromatography on silica gel (eluent: EtOAc/hexanes) to yield the product 3-(2-Methoxycarbonylamino-3-methyl-butyryl)-1-(2,2,2-trifluoro-ethyl)-imidazolidine-4-carboxylic acid methyl ester (95 mg, 0.257 mmol): LCMS-ESI': calc'd for C14H23F3N3O5: 369.3 (M+). Found: 369.9 (M+).

reactant | 3-(2-Methoxycarbonylamino-3-methyl-butyryl)-imidazolidine-1,4-dicarboxylic acid 1-tert-butyl ester 4-methyl ester | 0.412 mmol, 160 mg | COC(=O)C1N(CN(C1)C(=O)OC(C)(C)C)C(C(C(C)C)NC(=O)OC)=O | C17H29N3O7
reactant | HCl | 4M, 3 mL | Cl | ClH
reactant | diisopropyl ethylamine | 0.824 mmol, 106 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | trifluoroethyl triflate | 0.494 mmol, 114.7 mg | O(S(=O)(=O)C(F)(F)F)CC(F)(F)F | C3H2F6O3S
reactant | diisopropyl ethylamine | 1.648 mmol, 212 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | trifluoroethyl triflate | 0.988 mmol, 229.4 mg | O(S(=O)(=O)C(F)(F)F)CC(F)(F)F | C3H2F6O3S
solvent | dichloromethane | 0.5 mL | ClCCl | CH2Cl2
product | 3-(2-Methoxycarbonylamino-3-methyl-butyryl)-1-(2,2,2-trifluoro-ethyl)-imidazolidine-4-carboxylic acid methyl ester | 0.257 mmol, 95 mg | COC(=O)C1N(CN(C1)CC(F)(F)F)C(C(C(C)C)NC(=O)OC)=O | C14H22F3N3O5
